US07932399B2
5,6-Dichloro-2-(2-trifluoromethyl-oxazolidin-2-yl)-1H-benzimidazole (#61)
1-(5,6-DiChloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (594 mg), 2-bromoethylamine-hydrobromide (860 mg) and potassium carbonate (871 mg) were dissolved in DMF (5 mL). The reaction mixture was stirred for 18 hrs at ambient temperature, then diluted with ethyl acetate (50 mL), washed with water (50 mL) and brine (2×20 mL). The extracts were dried over Na2SO4, filtered, concentrated, and purified by column chromatography (SiO2; 40% ethyl acetate/hexanes) to yield the title compound as a yellow solid.

reactant | 1-(5,6-DiChloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 594 mg | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | 2-bromoethylamine-hydrobromide | 860 mg | Br.BrCCN
reactant | potassium carbonate | 871 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5,6-Dichloro-2-(2-trifluoromethyl-oxazolidin-2-yl)-1H-benzimidazole | ClC1=CC2=C(NC(=N2)C2(OCCN2)C(F)(F)F)C=C1Cl | C11H8Cl2F3N3O
